US08466167B2
A solution of tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ylcarbamate (1.0 eq.) and 2-bromobenzonitrile (1.0 eq.), tetrakis(triphenyl-phosphine)palladium (5 mol %), and 2N aqueous sodium carbonate solution (2.0 eq.) in toluene/ethanol (2:1, 0.03 M) was stirred at 100° C. overnight. After cooling to ambient temperature, the reaction content was diluted with methanol. The insoluble solids were filtered off, and the filtrate was concentrated en vacuo to obtain a crude residue. The crude product was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-80% ethyl acetate in hexane to give benzo[c][1,8]naphthyridin-6-amine as a white solid. 1H NMR (methanol-d4): δ 8.88 (dd, 1H), 8.67-8.63 (m, 2H), 8.30 (d, 1H), 7.90 (dt, 1H), 7.74 (dt, 1H), 7.36 (dd, 1H). LRMS [M+H]=196.1

reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-ylcarbamate | 1.0 eq. | CC1(OB(OC1(C)C)C=1C(=NC=CC1)NC(OC(C)(C)C)=O)C | C16H25BN2O4
reactant | 2-bromobenzonitrile | 1.0 eq. | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | sodium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene ethanol | 0.03 M | C1(=CC=CC=C1)C.C(C)O
solvent | methanol | CO | CH4O
product | benzo[c][1,8]naphthyridin-6-amine | C1=C2C3=C(C(=NC2=NC=C1)N)C=CC=C3 | C12H9N3
